US03991197
A solution of 40 g. of 3',4',5'-trimethoxy-3-(4-pyridyl)-acrylophenone and 24 g. of 2-nitropropane in 270 ml. of ethanol is heated at reflux with stirring under a nitrogen atmosphere. Within 1 hour there is added dropwise a sodium ethylate solution (manufactured from 1.35 g. of sodium and 27 ml. of ethanol). The reaction mixture left standing for a half hour to react further is then evaporated under reduced pressure. The residue results is taken up in methylene chloride, washed with water, dried over sodium sulfate and evaporated under reduced pressure. The product which results is crystallized with chloroform ether to yield 3',4',5'-trimethoxy-4-methyl-4-nitro-3-(4-pyridyl)-valerophenone, melting point 214°-216° C.

reactant | 3',4',5'-trimethoxy-3-(4-pyridyl)-acrylophenone | COC=1C=C(C=C(C1OC)OC)C(C=CC1=CC=NC=C1)=O | C17H17NO4
reactant | 2-nitropropane | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium ethylate solution | 27 ml, 1.35 g | CC[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3',4',5'-trimethoxy-4-methyl-4-nitro-3-(4-pyridyl)-valerophenone | COC=1C=C(C=C(C1OC)OC)C(CC(C(C)([N+](=O)[O-])C)C1=CC=NC=C1)=O | C20H24N2O6
